US07074798B2
4-[3-Methyl-7-(3-methylbut-2-enyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester (70 mg) and potassium carbonate (28 mg) were dissolved in N,N-dimethylformamide (1.5 ml), and ethyl bromoacetate (22 μl) was added thereto. After stirring at room temperature overnight, the reaction mixture was diluted with ethyl acetate, and washed with water. The organic layer was concentrated by distillation, and ethanol (1.5 ml) and 2 N sodium hydroxide aqueous solution (0.5 ml) were added to the resulting residue. The reaction mixture was stirred at room temperature for 3 hours, diluted with water, and neutralized with 2 N hydrochloric acid. After the mixture was extracted with ethyl acetate, the organic layer was concentrated by distillation to give 75 mg of 4-[1-carboxymethyl-3-methyl-7-(3-methylbut-2-enyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester. Then, the resulting 4-[1-carboxymethyl-3-methyl-7-(3-methylbut-2-enyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester (10 mg) was dissolved in trifluoroacetic acid (0.5 ml), and the reaction mixture was stirred at room temperature for 30 minutes. After the solvent was removed by distillation, a half of the residue was purified by HPLC with a reversed phase column using water-acetonitrile-trifluoroacetic acid system as eluent to give 5.9 mg of the title compound.

reactant | 4-[3-Methyl-7-(3-methylbut-2-enyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 70 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(NC(C2N1CC=C(C)C)=O)=O)C | C20H30N6O4
reactant | potassium carbonate | 28 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 22 μl | BrCC(=O)OCC | C4H7BrO2
solvent | N,N-dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[1-carboxymethyl-3-methyl-7-(3-methylbut-2-enyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 75 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(N(C(C2N1CC=C(C)C)=O)CC(=O)O)=O)C | C22H32N6O6
